US07763639B2
1-(3-BROMO-2-FLUOROPHENYL)-2,2,2-TRIFLUOROETHANONE
To a solution of 1-bromo-2-fluorobenzene (5.0 g, 28.6 mmol) in dry tetrahydrofuran (50 ml) under nitrogen, at −78° C. was added lithium diisopropylamide (2.0 M in hexane, 15.7 ml, 31.4 mmol). The mixture was stirred for 5 minutes after which ethyl trifluoroacetate (3.76 ml, 31.4 mmol) was added and the stirring was continued at −78° C. for an additional hour. The reaction mixture was brought to ambient temperature and water (50 ml) was added. The phases were separated and the aqueous phase extracted with ethylacetate (3×100 ml). The combined organic phases was dried (MgSO4) and evaporated to dryness to give an oil. The residue was purified by flash column chromatography (isooctane) to give the title compound (2.38 g). MS m/z (relative intensity, 70 eV) 272 (M+, 11), 270 (M+, 11), 203 (97), 201 (bp, 173 (46).

reactant | 1-bromo-2-fluorobenzene | 28.6 mmol, 5.0 g | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | lithium diisopropylamide | 31.4 mmol, 2.0 M, 15.7 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl trifluoroacetate | 31.4 mmol, 3.76 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(3-BROMO-2-FLUOROPHENYL)-2,2,2-TRIFLUOROETHANONE | 2.38 g | BrC=1C(=C(C=CC1)C(C(F)(F)F)=O)F | C8H3BrF4O
